US06448281B1
The N-methyltryptophan derivative from above (0.711 g, 1.21 mmol) was dissolved in MeOH (10 mL) and thionyl chloride (0.6 mL) was added dropwise. The mixture was heated to 60° C. for 3 h. Volatiles were removed under reduced pressure and the residue triturated with TBME (25 mL). The precipitated white solid was collected, washed with TBME and dried to give N-methyl-5-hydroxytryptophan methyl ester hydrochloride (0.339 g): MS (ES+) m/z 249 (MH+). The methyl ester hydrochloride from above (0.170 g, 0.6 mmol) was suspended in concentrated aqueous ammonia (15 mL) and the mixture was stirred overnight at room temperature. Volatiles were then removed under vacuum and the residue triturated with MeOH (34 mL) and Et2O (15 mL). The amide derivative was obtained as a brown solid (0.136 g).

reactant | N-methyltryptophan | CN[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C12H14N2O2
reactant | thionyl chloride | 0.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 10 mL | CO | CH4O
product | N-methyl-5-hydroxytryptophan methyl ester hydrochloride | 0.339 g | Cl.COC([C@@H](NC)CC1=CNC2=CC=C(C=C12)O)=O | InChI=1S/C13H16N2O3.ClH/c1-14-12(13(17)18-2)5-8-7-15-11-4-3-9(16)6-10(8)11;/h3-4,6-7,12,14-16H,5H2,1-2H3;1H/t12-;/m0./s1
